US06414179B1
Methyl 3-(4-tert-butyldimethylsilyloxyphenyl)-2-hydroxypropionate
To a solution of methyl 3-(4-tert-butyldimethylsilyloxyphenyl)propionate (5 g, 16.98 mmol) in THF (50 ml) at −78° C. was added dropwise potassium bis(trimethylsilyl)amide (0.5M in toluene, 34 ml, 17 mmol). The mixture was stirred at this temperature for 0.5 hours and treated with dropwise addition of a solution of trans-2-phenylsulfonyl-3-phenyloxaziridine (5.3 g, 20.38 mmol) in THF (30 ml). The mixture was stirred at −78° C. for 1 hour, quenched with aqueous ammonium chloride, warmed to room temperature and diluted with ethyl acetate. The organic phase was washed with aqueous ammonium chloride, brine, dried over sodium sulfate and concentrated in vacuo. Bulb-to-bulb distillation gave the title material (2 g, 38%) as a colorless oil (b.p. 115° C./0.025 mm Hg) which solidified upon standing.

reactant | methyl 3-(4-tert-butyldimethylsilyloxyphenyl)propionate | 16.98 mmol, 5 g | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)CCC(=O)OC | C16H26O3Si
reactant | potassium bis(trimethylsilyl)amide | 17 mmol, 0.5M, 34 ml | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | THF | 50 ml | C1CCOC1 | C4H8O
reactant | THF | 30 ml | C1CCOC1 | C4H8O
product | Methyl 3-(4-tert-butyldimethylsilyloxyphenyl)-2-hydroxypropionate | 2 g, 38% | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)CC(C(=O)OC)O | C16H26O4Si
